US04575487
Glucoamylase equivalent to 1 to 5 DU is taken in a test tube and diluted to 0.25 ml with (0.02M) acetate buffer, final pH 4.8. Then 0.25 ml of 0.02M acetate buffer containing acarbose is added to give a final concentration of 50 μg acarbose/DU of glucoamylase and the mixture is incubated at 37° C. for 30 minutes. After the specified time, 0.5 ml maltose (20% concentration) in 0.02M acetate buffer, pH 4.8 is added and the mixture incubated for another 60 minutes at 37° C. Enzymatic reaction is terminated by heating the mixture in a boiling water bath for 15 minutes. A blank reaction mixture, serving to correct for any trisacharride contaminant in the substrate, is prepared similarly except that maltose is added after thermal inactivation of the TG. Transglucosidase activity is then measured by determining, using liquid chromatography, the amount of panose formed. A standard curve, made using pure panose is prepared to calibrate the instrument. For glucoamylose samples containing low amounts of TG, a more prolonged incubation period, i.e. 15 to 20 hours, if necessary. The conditions for liquid chromatography were as follows:

reactant | maltose | 0.5 ml | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
solvent | acetate | 0.02M | C(C)(=O)[O-]
product | panose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C=O)O)O)O)O)O)O)O)O)O | C18H32O16
